Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with PMHx etoh cirrhosis decompenated by gastric 
variceal
bleed, ascites, encephalopathy, CKD, hemorrhoids, who is 
referred
for admission from ___ clinic for decompensated cirrhosis
and ___. 

Patient seen in ___ clinic today, found to have worsening
___ and referred for admission.

Of note, she was recently admitted on ___ to ___ for
jaundice, found to have likely medication-induced hepatitis from
a weight loss supplement which she bought online. 

After discharge, she developed abdominal distention and ___
swelling, followed up with Dr. ___ was started on
lasix/spironolactone. She had labs done, which revealed hgb 6.6
in the setting of having BRBPR, as well as ___ with Cr 2.5, and
she was hospitalized from ___. She received 2u PRBC.
She had an endoscopy which revealed 2 small esophageal varices,
portal hypertension gastropathy, but no active bleeding. She 
also
had a colonoscopy which revealed pancolonic diverticulosis and
hemorrhoids, but no active bleeding. She has plans to see a
colorectal surgeon for further management of hemorrhoids. During
that admission, she had a paracentesis with 2L taken off and
discharged on torsemide 20mg/spironolactone. She was also found
to have c. diff and was supposed to finish a 2 week course of PO
vancomycin, although pt does not remember taking this medication

On day of discharge on ___, hgb was 7.9, plt 85k, Cr 2.3, t. 
bili
7.5.

Had follow up labs on ___, which revealed Cr of 3.1, bili 11.9,
hgb 8.6.

She reports having been compliant with her medications, although
has difficulty knowing her medications. States she does not have
a great appetite. Denies any fever, chills, N/V, abd pain,
distension, ___ swelling, dysuria, cough, numbness, tingling. She
states that she has 2 BMs a day, with less BRPBR, and that they
are loose, but have always been like that. She does note being
more itchy

In the ED, initial vitals: 98.5 110 139/75 16 100% RA 
- Exam notable for: 
General: Alert and oriented x4, no acute distress, jaundiced,
obese, comfortably sitting up in bed
Abdomen: Obese, fluid wave positive, distended, nontender, 
unable
to appreciate masses or hepatosplenomegaly, active bowel sounds,
no rashes, no caput medusa, spider angiomas present
 
- Labs notable for: 
     9.4
12.9>---<193 

133  99  37     AGap=15 
------------- 
4.7  19  2.1 

ALT: 9 AP: 141 Tbili: 10.0 Alb: 3.8 
AST: 55  Dbili: 4.7 

INR: 1.7

UA with 10 WBC, few bac, 5 epis, small leuk, neg nit

- Imaging notable for:
Abd Duplex
1. Patent hepatic vasculature with again seen reversed flow of
the right 
portal vein. 
2. Splenomegaly and recanalization of the umbilical vein again
seen. 

CXR: No acute intrathoracic process. 

- Pt given: 50g albumin, lidocaine patch

- Vitals prior to transfer: 115/57 98 18 98% RA 

Upon arrival to the floor, the patient reports history as above. 


 
Past Medical History:
Alcoholic Cirrhosis decompensated by ascites, encephalopathy, 
and
gastric variceal bleed
Hypertension
Frequent UTIs
NAFLD
Obesity
Hx of alcoholic hepatitis and likely ETOH cirrhosis requiring 
prolonged hospitalization in ___  
 
Social History:
___
Family History:
No known family hx of liver disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 98.9 143/83 103 18 98% RA  
General: Alert, oriented, no acute distress  
HEENT: icteric sclera, MMM, oropharynx clear, EOMI, PERRL
CV: RRR. S1, S2. Harsh systolic murmur heard throughout the
precordium  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, +BS
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: jaundiced skin. spider angiomas present 
Neuro: CNII-XII intact. no focal deficits. No asterixes  

DISCHARGE PHYSICAL EXAM
VS: ___ 0724 Temp: 98.2 PO BP: 111/65 HR: 94 RR: 18 O2 sat:
97% O2 delivery: Ra 
GENERAL: Pleasant, lying in bed comfortably. A&Ox3. Interactive
and in no acute distress. 
HEENT:  NC/AT EOMI MMM PERRLA. Palatal and scleral jaundice
noted. 
CARDIAC: Systolic murmur ___ appreciated loudest in tricuspid
area, as well as RUSB/LUSB. Not appreciated at apex or
posteriorly. No radiation to carotids. 
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended. No 
fluid
wave appreciated. No hepatic nodularity or enlargement
appreciated. No splenomegaly palpable. 
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses
NEURO: Alert, oriented x3, motor and sensory function grossly
intact. DOWB without difficulty. 
SKIN: Slightly diffuse jaundice. no palmar erythema, spider 
angiomata. 
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 06:40PM GLUCOSE-96 UREA N-37* CREAT-2.1* SODIUM-133* 
POTASSIUM-4.7 CHLORIDE-99 TOTAL CO2-19* ANION GAP-15 
___ 06:40PM ALT(SGPT)-9 AST(SGOT)-55* ALK PHOS-141* TOT 
BILI-10.0* DIR BILI-4.7* INDIR BIL-5.3 
___ 06:40PM cTropnT-<0.01 
___ 06:40PM proBNP-180 
___ 06:40PM ALBUMIN-3.8 
___ 06:40PM ASA-NEG ETHANOL-NEG ACETMNPHN-NEG tricyclic-NEG 

___ 06:40PM URINE HOURS-RANDOM 
___ 06:40PM URINE UHOLD-HOLD 
___ 06:40PM WBC-12.9* RBC-3.11* HGB-9.4* HCT-29.0* MCV-93 
MCH-30.2 MCHC-32.4 RDW-19.9* RDWSD-67.4* 
___ 06:40PM NEUTS-73.4* LYMPHS-13.2* MONOS-11.8 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-9.43* AbsLymp-1.70 AbsMono-1.51* 
AbsEos-0.12 AbsBaso-0.04 
___ 06:40PM PLT COUNT-193 
___ 06:40PM URINE COLOR-Yellow APPEAR-Hazy* SP ___ 
___ 06:40PM URINE BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-SM* 
___ 06:40PM URINE RBC-<1 WBC-10* BACTERIA-FEW* YEAST-NONE 
EPI-5 TRANS EPI-<1 
___ 06:40PM URINE HYALINE-1* 
___ 11:25AM URINE HOURS-RANDOM CREAT-45 SODIUM-87 
___ 11:25AM URINE COLOR-Yellow APPEAR-Clear SP ___ 
___ 11:25AM URINE BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-7.5 
LEUK-SM* 
___ 11:25AM URINE ___ BACTERIA-MOD* 
YEAST-NONE ___ 
___ 11:20AM UREA N-31* CREAT-2.1* SODIUM-135 POTASSIUM-5.3 
CHLORIDE-97 TOTAL CO2-22 ANION GAP-16 
___ 11:20AM estGFR-Using this 
___ 11:20AM ALT(SGPT)-9 AST(SGOT)-60* ALK PHOS-140* TOT 
BILI-11.0* DIR BILI-4.8* INDIR BIL-6.2 
___ 11:20AM cTropnT-<0.01 
___ 11:20AM ALBUMIN-3.9 
___ 11:20AM ETHANOL-NEG 
___ 11:20AM WBC-11.2* RBC-3.24* HGB-9.8* HCT-30.4* MCV-94 
MCH-30.2 MCHC-32.2 RDW-19.7* RDWSD-66.4* 
___ 11:20AM PLT COUNT-181 
___ 11:20AM ___ 

==================
PERTINENT STUDIES:
==================

___ Imaging LIVER OR GALLBLADDER US 
IMPRESSION: 
1. Patent hepatic vasculature with again seen reversed flow of 
the anterior right portal vein. 
2. Cirrotic liver, splenomegaly and recanalization of the 
umbilical vein again seen. 

===============
DISCHARGE LABS:
===============

___ 04:35AM BLOOD WBC-5.7 RBC-2.37* Hgb-7.2* Hct-22.1* 
MCV-93 MCH-30.4 MCHC-32.6 RDW-19.9* RDWSD-66.4* Plt ___
___ 04:35AM BLOOD Glucose-85 UreaN-35* Creat-1.9* Na-135 
K-4.1 Cl-98 HCO3-22 AnGap-15
___ 04:35AM BLOOD ALT-6 AST-42* AlkPhos-113* TotBili-7.6*
 
Brief Hospital Course:
___ year old woman with EtOh cirrhosis previously complicated by 
gastric variceal bleed, ascites, encephalopathy, CKD, and 
hemorrhoids, who was referred for admission from ___ 
clinic for ___ and hyperbilirubinemia. Infectious work-up and 
RUQ US were unremarkable. Etiology for ___ was felt to be due to 
diuretics. She received albumin and her diuretics were held with 
improvement in renal function and hyperbilirubinemia to 
baseline. Her known anemia remained stable during the 
hospitalization. 

ACUTE ISSUES:
___ on CKD: Presented with Cr 2.1 from recent baseline ~1.7. 
CBC hemoconcentrated. Her diuretics (spironolactone 100, 
torsemide 20) were held both inpatient and at discharge, and she 
received albumin with improvement to 1.9 at discharge. Nadolol 
was held, then restarted at discharge.

#EtOH Cirrhosis
#Hyperbilirubinemia: TBili on arrival 11. Aside from this, there 
was no other evidence of new, acute hepatic decompensation. It 
rapidly down-trended to 7.6 at discharge (consistent with her 
discharge value on ___. Discharge MELD-Na: 27 

#Poor nutrition: In conjunction with inpatient dietician, 
patient was counseled re: importance of maintaining adequate 
nutrition, using dietary supplements as able.

CHRONIC ISSUES:
#Anemia: Iron studies on admission c/w anemia of chronic 
disease. Possible contribution of bleeding hemorrhoids. Hb was 
stable around 7 over two days prior to discharge, consistent 
with recent values.

TRANSITIONAL ISSUES:
-Diuretics and electrolyte supplements discontinued, assess 
volume status and need for diuresis moving forward

Code: Full (Presumed)
Name of health care proxy: ___ 
Relationship: Husband 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Torsemide 20 mg PO DAILY 
2. Spironolactone 100 mg PO DAILY 
3. Pantoprazole 20 mg PO Q24H 
4. Rifaximin 550 mg PO BID 
5. Sodium Bicarbonate 1300 mg PO TID 
6. Magnesium Oxide 400 mg PO BID 
7. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Medications:
1.  Lactulose ___ mL PO Q6H:PRN constipation goal ___ BMs per 
day 
2.  Pantoprazole 20 mg PO Q24H  
3.  Rifaximin 550 mg PO BID  
4.  Sodium Bicarbonate 1300 mg PO TID  

5. Magnesium Oxide 400 mg PO BID  This medication was held. Do 
not restart Magnesium Oxide until instructed by your 
hepatologist
6. Potassium Chloride 20 mEq PO DAILY  This medication was held. 
Do not restart Potassium Chloride until instructed by your 
hepatologist
7. Spironolactone 100 mg PO DAILY  This medication was held. Do 
not restart Spironolactone until instructed by your hepatologist
8. Torsemide 20 mg PO DAILY  This medication was held. Do not 
restart Torsemide until instructed by your hepatologist
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Acute kidney injury

SECONDARY DIAGNOSIS:
-Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for abnormal lab values reflecting mild 
injury to your liver and kidney
  
 
What was done for me while I was in the hospital?  
- You were monitored and this injury resolved
- We stopped your diuretic medications, as this was felt to be 
the most likely cause of your liver and kidney injury

What should I do when I leave the hospital?  
- Stop taking your diuretic medications (furosemide, 
spironolactone) and electrolyte supplements (magnesium, 
potassium)
- Use lactulose as needed to have ___ bowel movements per day
- Avoid all over the counter medications or supplements unless 
you have discussed them with your liver doctor 
- Aim to eat at least 2,000 calories per day
- Weigh yourself every day, call your doctor if your weight 
changes by more than 3 pounds in one day, or 5 pounds in one 
week

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___